US04935432
To a stirred mixture of 3-[3-methoxy-4-{(2-methoxyethoxy)methoxy}phenyl]-(E)-propenoic acid (1.75 g) and triethylamine (1.81 ml) in dry N,N-dimethylformamide (10 ml) was added slowly diphenyl phosphinic chloride (1.47 g) at -10° to -15° C. under an inert atmosphere. After being stirred for 30 minutes, a solution of 1-(2-aminoethyl)-4-(3-indolyl)piperidine (1.5 g) in dry N,N-dimethylformamide (10 ml) was added slowly to the reaction mixture at -10° C. After being stirred for 1 hour at ambient temperature, the reaction mixture was poured into ice-water (200 ml) and extracted with chloroform (100 ml). The extract was washed with a saturated sodium chloride solution and dried over magnesium sulfate. The solvent was distilled off and the residue was subjected to column chromatography on silicagel (47 g) and eluted with a mixture of chloroform and methanol (10:1). The fractions containing the object compound were combined and concentrated under reduced pressure to give syrup of 1-[2-[3-[3-methoxy-4-{(2-methoxyethoxy)methoxy}phenyl]-(E)-propenoylamino]ethyl]-4-(3-indolyl)piperidine (2.8 g).

reactant | 3-[3-methoxy-4-{(2-methoxyethoxy)methoxy}phenyl]-(E)-propenoic acid | 1.75 g | COC=1C=C(C=CC1OCOCCOC)/C=C/C(=O)O | C14H18O6
reactant | triethylamine | 1.81 ml | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphinic chloride | 1.47 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | 1-(2-aminoethyl)-4-(3-indolyl)piperidine | 1.5 g | NCCN1CCC(CC1)C1=CNC2=CC=CC=C12 | C15H21N3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[2-[3-[3-methoxy-4-{(2-methoxyethoxy)methoxy}phenyl]-(E)-propenoylamino]ethyl]-4-(3-indolyl)piperidine | 2.8 g | COC=1C=C(C=CC1OCOCCOC)/C=C/C(=O)NCCN1CCC(CC1)C1=CNC2=CC=CC=C12 | C29H37N3O5
